US06927214B1
2-Benzoxazol-2-yl-6,7-Dichloro-3-trifluoromethylquinoxaline
The title compound was prepared from 2-bromo-6,7-dichloro-3-trifluoromethylquinoxaline and 2-mercaptobenzoxazole in analogy with the method outlined in example 1.

reactant | 2-bromo-6,7-dichloro-3-trifluoromethylquinoxaline | BrC1=NC2=CC(=C(C=C2N=C1C(F)(F)F)Cl)Cl | C9H2BrCl2F3N2
reactant | 2-mercaptobenzoxazole | SC=1OC2=C(N1)C=CC=C2 | C7H5NOS
product | 2-Benzoxazol-2-yl-6,7-Dichloro-3-trifluoromethylquinoxaline | O1C(=NC2=C1C=CC=C2)C2=NC1=CC(=C(C=C1N=C2C(F)(F)F)Cl)Cl | C16H6Cl2F3N3O
